US04489078
7-AMINO-2,3-DIHYDRO-8-[(4-CHLOROPHENYL)METHYL]-6-NITROSOIMIDAZO[1,2-a]PYRIMIDIN-5(8H)-ONE.
To a solution of 62.30 g. 0.44 mol) of 4-chlorobenzylamine in 500 ml absolute EtOH (dried over 4A molecular sieve aluminosilicate desiccant) is added 107.40 g (0.44 mol) 2-(methylthio)-2-imidazoline hydroiodide. The mixture is heated to boiling on a steam bath in an open flask and about 150 ml of the ethanol is allowed to slowly boil off over 2 hr. This solution is added while still hot to 1.76 mole of sodium ethoxide in 1650 ml absolute EtOH. To the resulting stirred, basic solution of 2-[(4-chlorophenyl)methyl]amino-2-imidazoline is then added 61.85 g (0.44 mol) crystalline (mp 129°-131°) ethyl oximinocyanoacetate in portions. The bright yellow solution is refluxed for 3 hr and then cooled to room temperature. The yellow precipitate is collected, washed with i-PrOH, and partially air-dried. The damp sodium salt is dissolved in 2000 ml H2O and acidified with glacial HOAc. The bright pink precipitate is filtered and aid-dried overnight, then oven-dried in vacuo at 100° to yield 103.05 g (77%) of pink powder, mp 238°-241° d. Recrystallization of this material from DMF-EtOH gives red crystals, mp 241° d.

reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 2-(methylthio)-2-imidazoline hydroiodide | 0.44 mol, 107.40 g | I.CSC=1NCCN1
reactant | sodium ethoxide | 1.76 mole | [O-]CC.[Na+]
reactant | 2-[(4-chlorophenyl)methyl]amino-2-imidazoline | ClC1=CC=C(C=C1)CNC=1NCCN1 | C10H12ClN3
reactant | ethyl oximinocyanoacetate | N(O)=C(C(=O)OCC)C#N | C5H6N2O3
solvent | EtOH | 500 ml | CCO | C2H6O
solvent | EtOH | 1650 ml | CCO | C2H6O
solvent | ethanol | about 150 ml | C(C)O | C2H6O
product | 7-AMINO-2,3-DIHYDRO-8-[(4-CHLOROPHENYL)METHYL]-6-NITROSOIMIDAZO[1,2-a]PYRIMIDIN-5(8H)-ONE | 103.05 g, 77% | NC=1N(C=2N(C(C1N=O)=O)CCN2)CC2=CC=C(C=C2)Cl | C13H12ClN5O2
